US07781452B2
(2f) 5-Methyl-3-nitro-6-(2,2,2-trifluoroethoxy)-2-pyridinamine
2,2,2-Trifluoroethanol (340 mg, 3.4 mmol) was dissolved in the tetrahydrofuran (10 ml), sodium hydride (60%) (120 mg, 3.0 mmol) was added thereto, and the reaction mixture was stirred for 30 minutes at room temperature under nitrogen atmosphere. A solution of 6-chloro-5-methyl-3-nitro-2-pyridineamine crude product (400 mg) in tetrahydrofuran (10 ml) was dropped, and the reaction mixture was stirred at room temperature for 2.5 days. Water was added to the reaction solution and extracted with ethyl acetate, and after washed with a sodium bicarbonate solution, dried over magnesium sulfate. The residue obtained by evaporating the solvent was purified by silica gel column chromatography (eluting solvent: ethyl acetate/n-hexane=15/85) to yield the title compound (225 mg, 0.90 mmol) as a yellow solid.

reactant | 2,2,2-Trifluoroethanol | 3.4 mmol, 340 mg | FC(CO)(F)F | C2H3F3O
reactant | sodium hydride | 3.0 mmol, 120 mg | [H-].[Na+]
reactant | 6-chloro-5-methyl-3-nitro-2-pyridineamine | ClC1=C(C=C(C(=N1)N)[N+](=O)[O-])C | C6H6ClN3O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-Methyl-3-nitro-6-(2,2,2-trifluoroethoxy)-2-pyridinamine | 0.90 mmol, 225 mg | CC=1C=C(C(=NC1OCC(F)(F)F)N)[N+](=O)[O-] | C8H8F3N3O3
